US04898871
An oily suspension (50% by weight; 1.8 g) of sodium hydride is added in small portions at a temperature in the region of -5° C. to a solution, maintained under an argon atmosphere, of 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (9.3 g) in anhydrous dimethylformamide (120 cc), and the suspension obtained is stirred for 30 minutes at a temperature in the region of 0° C. 1-Chloro-4-methyl-2-pentanone (8.1 g) is then added dropwise while the temperature is maintained at 0° C., and stirring is continued for a further 1 hour at 0° C. and then for 4 hours at a temperature in the region of 20° C. The reaction mixture is then poured into a mixture of ice (150 g) and water (350 cc), neutralized with 1N hydrochloric acid solution and extracted with dichloromethane (3×250 cc). The organic phases are combined, washed with water (4×75 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue obtained is taken up with ethyl acetate (25 cc) and the insoluble product is separated by filtration, washed successively with ethyl acetate (10 cc) and diisopropyl ether (10 cc) and then discarded. The filtrate is concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue obtained is purified by chromatography on silica (120 g) contained in a column 3 cm in diameter [eluant: dichloromethane/methanol (98.5:1.5 by volume)]. Elution is first performed with 170 cc of solvent: the corresponding eluate is discarded; elution is then performed with 800 cc of solvent and the corresponding eluate concentrated to dryness under reduced pressure (2.7 kPa). After recrystallization of the residue in ethyl acetate, 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(4-methyl-2-oxopentyloxy)-1isoindolinone (3 g), m.p. 120° C., is obtained. 1-Chloro-4-methyl-2-pentanone may be prepared by the method described by ASINGER F., et al., Ann. Chem., 1964, 672, 156.

reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.3 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C17H13N3O3
reactant | 1-Chloro-4-methyl-2-pentanone | 8.1 g | ClCC(CC(C)C)=O | C6H11ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 120 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 25 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 350 cc | O | H2O
product | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(4-methyl-2-oxopentyloxy)-1isoindolinone | 3 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OCC(CC(C)C)=O)=O | C23H23N3O4
